Name:  ___.              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Tetanus / ibuprofen / Ceftin / Penicillins / Cyclobenzaprine
 
Attending: ___.
 
Chief Complaint:
Abdominal Pain  
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old woman with PMH significant for Crohn's disease, 
sarcoidosis, history of SBOs, chronic back and abdominal pain
presenting with several day history of acute on chronic 
abdominal
pain with, also with coffee-ground stools with clots and
associated syncopal episode.

Patient was in her relatively usual state of health until 3 days
prior when she noticed acute worsening of her chronic abdominal
pain. At baseline, patient states that she has chronic abdominal
pain that has been ongoing for at least a year that occurs 
almost
every day, exacerbated by eating. Starting ___, her
abdominal pain worsened as is currently severe. Describes
___ abdominal pain that is stabbing, also with 
burning
sensation. Has chronic nausea at baseline for which she takes
Zofran PRN, and also still has vomiting about every 4 days which
has been chronic. Also still with unchanged chronic diarrhea 
that
she describes as watery.

Yesterday while she was having a bowel movement, describes it as
"coffee ground" and black. Felt very lightheaded and called her
daughter. States she passed out while talking with her daughter
and next thing she remembers was waking up after her daughter
arrived. Denied any chest pain, palpitations surrounding event,
no tongue bite or urinary incontinence. Subsequently presented 
to
___ ED, however not satisfied with care there and subsequently
presented here. 
 
In the ED, initial vitals were: T 97.7 HR 88 BP 191/100 RR 18 O2
98%RA
 
Exam notable for:  
Uncomfortable, no acute distress
Head NC/AT
RRR, systolic murmur
CTA bilaterally
Abdomen distended, soft, diffuse tenderness most pronounced in
RLQ, voluntary guarding, no rebound, hyperactive bowel sounds
Brown stool, guaiac negative
Skin warm and dry

Labs notable for:  
- CBC 8.4, Hb 12.1, PLT 176
- Na 143, K 3.7, Cl 112, bicarb 17, Cr 0.8
- CRP 0.5
- LFTs: ALT 30, AST 59, ALP 85, T. bili 0.2
- Lipase 73
- UA bland

Imaging was notable for: 
CT A/P WC: 
Moderately dilated cecum with a likely transition point in the
right mid abdomen (series 2, image 43, 48), concerning for cecal
bascule. There are fluid-filled loops of small bowel proximally
without significant dilatation. No free fluid in the pelvis.
Normal bowel wall enhancement

Patient was given:  
___ 00:03 IVF  NS  
___ 00:11 IV Morphine Sulfate 4 mg 
___ 00:11 IV Ondansetron 4 mg 
___ 03:58 IV MetroNIDAZOLE   
___ 04:08 PO/NG Baclofen 30 mg 
___ 04:08 TD Nicotine Patch 14 mg/day 
___ 04:57 IVF  NS  
___ 04:57 IV MetroNIDAZOLE 500 mg
___ 04:58 IV Ciprofloxacin    
___ 05:23 IV Ondansetron 4 mg   
___ 06:10 IV Ciprofloxacin 400 mg
___ 06:10 IV Morphine Sulfate 4 mg 

Consults:
- GI: By report CT shows SBO. Recommended CRS consult, NNPO, 
IVF,
CRP, IV cipro/flagyl, NG decompression for which patient refused
NG tube placement

- CRS: CT scan not consistent with obstructive pattern as small
bowel decompressed and colon dilated throughout; most consistent
with chronic colon dilation from pelvic floor dysmotility, which
can be treated as an outpatient.No indication for surgical
intervention. Dispo per ED. 

Patient unable to tolerate PO, admitted for continued pain
control 

Subjective: Upon arrival to the floor, patient confirms the 
above
history. Currently states that she is still in severe abdominal
pain, worse than her baseline. States that she was having 
several
small bowel movements overnight and passing gas. States that the
bowel movement was initially still coffee-ground and black,
however then progressed to liquid watery. Denies any recent
fevers, chills. Nausea feels at baseline. Says that her 
abdominal
pain feels like her Chron's pain, last flare ___ year prior. 

 
Past Medical History:
- MVA in ___ with subsequent 3-day coma per her daughter, 
without any residual deficits or cognitive disability but 
significant nerve pain
- Sarcoidosis with liver involvement and mediastinal and 
abdominal lymph nodes
- Crohn's Disease with history of colon/rectal cancer
- Asthma
- Depression
- Chronic constipation
- Fibromyalgia
- Obstructve sleep apnea
- Abdominal wall hernias
- Suicidal thoughts, admitted to the ___ in ___
- Herpes zoster in ___ with left breast/chest area
- ___ esophagus
- Osteopenia
- B12 deficiency
- h/o Type 2 diabetes related to steroids
- h/o small bowel obstructions
- h/o endometriosis
- h/o fibroids
- s/p laminectomy (___)
- s/p cholecystectomy
 
Social History:
___
Family History:
Other relatives with sarcoidosis. Sister with
ovarian cancer, vulvar cancer. Brother with prostate cancer.
Mother with lung cancer. Father with prostate cancer
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VITAL SIGNS:  ___ 0741 Temp: 98.4 PO BP: 152/79 R Sitting
HR: 68 RR: 18 O2 sat: 97% O2 delivery: Ra 
GENERAL: Uncomfortable appearing, intermittently crying 
HEENT: NC/AT, PERRL, EOMI
NECK: Supple, no lymphadenopathy, no elevated JVD 
CARDIAC: II/VI systolic murmur heard throughout precordium, no
rubs or gallops 
LUNGS: Bibasilar rales, otherwise no wheezes or rhonchi 
ABDOMEN: Voluntary guarding, mild distention, mild TTP
throughout, although no rebound or peritoneal signs 
EXTREMITIES: 2+ peripheral pulses, no c/c/e 
NEUROLOGIC: CN II-XII intact. No focal neurological deficits.  

DISCHARGE PHYSICAL EXAM:  
24 HR Data (last updated ___ @ 1133)
    Temp: 98.5 (Tm 98.5), BP: 113/70 (97-137/61-73), HR: 59 
(54-82), RR: 18 (___), O2 sat: 99% (95-99), O2 delivery: Ra, 
Wt: 109.79 lb/49.8 kg  
GENERAL: Comfortable in NAD
HEENT: NC/AT, PERRL, EOMI
NECK: Supple, no lymphadenopathy, no elevated JVD 
CARDIAC: II/VI systolic murmur loudest at LLSB, no rubs or 
gallops 
LUNGS: CTAB 
ABDOMEN: Voluntary guarding, mild distention, mild TTP 
throughout most at RLQ, although no rebound or peritoneal signs 
EXTREMITIES: 2+ peripheral pulses, no c/c/e 
NEUROLOGIC: CN II-XII intact. No focal neurological deficits.  

 
Pertinent Results:
ADMISSION LABS

___ 10:52PM BLOOD WBC-8.4 RBC-3.76* Hgb-12.1 Hct-36.6 
MCV-97 MCH-32.2* MCHC-33.1 RDW-12.3 RDWSD-44.1 Plt ___
___ 10:52PM BLOOD Neuts-63.4 ___ Monos-8.1 Eos-1.1 
Baso-0.2 Im ___ AbsNeut-5.31 AbsLymp-2.24 AbsMono-0.68 
AbsEos-0.09 AbsBaso-0.02
___ 10:52PM BLOOD ___ PTT-28.8 ___
___ 10:52PM BLOOD Glucose-116* UreaN-11 Creat-0.8 Na-143 
K-3.7 Cl-112* HCO3-17* AnGap-14
___ 10:52PM BLOOD ALT-30 AST-59* AlkPhos-85 TotBili-0.2
___ 10:52PM BLOOD Albumin-4.0 Calcium-8.6 Phos-3.3 Mg-2.2
___ 10:52PM BLOOD CRP-0.5

DISCHARGE LABS

___ 06:40AM BLOOD WBC-5.6 RBC-3.77* Hgb-12.1 Hct-38.0 
MCV-101* MCH-32.1* MCHC-31.8* RDW-12.9 RDWSD-47.8* Plt ___
___ 06:40AM BLOOD Glucose-88 UreaN-8 Creat-0.8 Na-148* 
K-4.0 Cl-113* HCO3-22 AnGap-13
___ 06:40AM BLOOD Calcium-9.1 Phos-4.2 Mg-2.2

MICRO
Blood and Urine cultures pending at d/c

IMAGING/STUDIES

___ CT ABD & PELVIS WITH CO 
IMPRESSION: 
1. Dilated cecum with a possible transition point in the right 
mid abdomen (series 2, image 43, 48), raising possibility of a 
cecal bascule. 
2. There are dilated fluid-filled loops of small bowel 
proximally with an 
apparent transition point in the mid lower abdomen, suggestive 
of a partial small bowel obstruction. 

 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with PMH significant for 
Crohn's disease, history of multiple SBOs, pelvic floor 
dysmotility, sarcoidosis, chronic back and abdominal pain 
presenting with several day history of acute on chronic 
abdominal pain, also with coffee-ground stools with clots and 
associated syncopal episode. Had CT A/P on admission showing 
dilated cecum with possible transition point concerning for SBO. 
However on further review with colorectal surgery, imaging did 
not support acute obstruction given her small bowel was 
decompressed and colon was dilated throughout. Given recent anal 
manometry testing showing elevated pressures and pelvic floor 
dysmotility was thought to have chronic dilation in the setting 
of pelvic floor dysmotility. Continued to have bowel movements 
and was passing gas, abdominal pain free at discharge. 

ACUTE ISSUES
=================
#Chronic Colon Dilation
#Pelvic Floor Dysmotility - With history of Crohns and prior 
SBO's presenting with several day history of acute on chronic 
abdominal pain with coffee-ground stool and associated syncopal 
episode. She initially had a CT A/P read as moderately dilated 
cecum with bascule and likely transition point in R mid abdomen, 
and patient was given IV ciprofloxacin and Flagyl. Colorectal 
surgery was consulted and on further review of CT imaging, was 
not consistent with obstructive pattern as small bowel was 
decompressed and colon dilated throughout, likely chronic 
dilation from pelvic floor dysmotility (recent anorectal 
manometry notable for high resting anal sphincter pressure with 
pelvic floor dysfunction). She had initially refused NGT 
decompression in ED. Reassuringly patient continued to have 
bowel movements and was passing gas during hospitalization, 
abdominal exam was not peritoneal. Given inpatient surgical 
management was not indicated, patient was trialed clears which 
she tolerated, diet was advanced, and was re-started on bowel 
regimen with standing MiraLAX and Colace. GI was consulted, with 
recommendations to discontinue IV abx and continue with her 
fentanyl patch for which she takes due to chronic pain. Crohn's 
flare was considered unlikely as CRP was not elevated, CT 
unremarkable for inflammation, and recent colonoscopy without 
findings of Crohn's. It was recommended  that she follow up with 
outpatient PR for pelvic floor physical  therapy to improve her 
symptoms. Given the improvement in her symptoms, passing gas and 
bowel movements and tolerating a diet the patient felt 
comfortable with discharge home and outpatient follow-up. 

#Syncope - Patient presented after syncopal episode in setting  
of bowel movement and passing "coffee-ground stool" per the 
patient. H/H stable in the hospital.  Likely vasovagal in the 
setting of bowel movement. Was  initially ordered for a TTE as 
part of syncope work-up given  II/VI systolic murmur on exam, 
however patient refused TTE. She  also refused telemetry as she 
reported that her "heart is fine, it has been evaluated". After 
obtaining collateral from PCP, patient has a known history of 
tricuspid regurgitation (last TTE in ___ and her murmur is not 
new. 

CHRONIC ISSUES
==================
#Chronic Pain - With history of chronic mid back, lower back, 
and right hip pain managed with fentanyl patch for mid and lower 
back pain and R hip pain. Previously had L4-L5 microdiscectomies 
from Dr. ___ she also had multiple epidural 
steroid injections including L3-L4 LESI and right L4 TFESI. She 
was continued on home fentanyl patch 75 mcg re-placed ___ ___, 
home baclofen 10mg TID, home Topamax 200mg PO BID, gabapentin 
300mg PO QHS. 

#Narcolepsy - Continued home modafinil 200mg PO QD that patient 
endorses taking PRN. 

TRANSITIONAL ISSUES
===================
[ ] NEW/CHANGED MEDICATIONS
- None

[ ] Per CRS no surgical intervention. If indicated can refer to 
___ as an outpatient at GI follow-up if indicated

[ ] Will benefit from outpatient physical therapy per GI for 
pelvic floor dysmotility

# CODE: full (presumed) 
# CONTACT: 
Name of health care proxy: ___ 
Relationship: Daughter 
Phone number: ___ 
 
___ on Admission:
1. Fentanyl Patch 75 mcg/h TD Q72H 
2. Multivitamins 1 TAB PO DAILY 
3. Potassium Chloride 40 mEq PO DAILY 
4. Topiramate (Topamax) 200 mg PO BID 
5. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
6. Constulose (lactulose) 10 gram/15 mL oral DAILY:PRN 
7. OLANZapine (Disintegrating Tablet) 7.5 mg PO QHS:PRN insomnia 

8. Modafinil 200 mg PO DAILY 
9. Omeprazole 20 mg PO DAILY 
10. Baclofen 10 mg PO TID 
11. Gabapentin 300 mg PO QHS 
12. Ondansetron 4 mg PO Q8H:PRN Nausea/Vomiting - First Line 
13. Lactulose 30 mL PO BID 
14. Polyethylene Glycol 17 g PO DAILY 

 
Discharge Medications:
1.  Baclofen 10 mg PO TID  
2.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation  
3.  Constulose (lactulose) 10 gram/15 mL oral DAILY:PRN  
4.  Fentanyl Patch 75 mcg/h TD Q72H  
5.  Gabapentin 300 mg PO QHS  
6.  Lactulose 30 mL PO BID  
7.  Modafinil 200 mg PO DAILY  
8.  Multivitamins 1 TAB PO DAILY  
9.  OLANZapine (Disintegrating Tablet) 7.5 mg PO QHS:PRN 
insomnia  
10.  Omeprazole 20 mg PO DAILY  
11.  Ondansetron 4 mg PO Q8H:PRN Nausea/Vomiting - First Line  
12.  Polyethylene Glycol 17 g PO DAILY  
13.  Potassium Chloride 40 mEq PO DAILY  
14.  Topiramate (Topamax) 200 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Chronic colonic dilation 
Pelvic floor dysmotility

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
  
It was a pleasure caring for you at ___ 
___. 

WHY WAS I IN THE HOSPITAL?  
- You were admitted to the hospital because you were having 
abdominal pain and fainted after having a bowel movement.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
-You received a CT scan which showed you had a lot of gas in 
your abdomen with chronic dilation, but we did not think this 
was caused by an obstruction.
-After speaking with your primary care doctor, we determined 
that your fainting was unlikely to be caused by your heart and 
was likely because you were having a bowel movement.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
-Please continue to take all of your medications as prescribed 
and follow-up with your appointments as listed below.

We wish you the best!  

Sincerely,  

Your ___ Team  
 
Followup Instructions:
___